US06589967B1
Production of 1-(4,6-Dimethyl-2-pyridinyl)ethanone O-[(2-Pivaloyloxy-3-methoxyphenyl)methyl] Oxime (Compound No. 206)
0.2 g (0.67 mmol) of 1-(4,6-dimethyl-2-pyridinyl)ethanone O-[(2-hydroxy-3-methoxyphenyl)methyl]oxime was dissolved in 5 ml of methylene chloride. The resultant solution was added with 0.11 g (1.34 mmol) of pyridine, 5 mg of 4-(N,N-dimethylamino)pyridine and 0.12 g (1.00 mmol) of pivalic chloride. The obtained mixture was heated to reach the reflux temperature and stirred for 5 hours to complete a reaction. The reacted solution was washed with water and saturated saline solution in sequence, and the resultant nonaqueous layer was dried with anhydrous magnesium sulfate. The mixture was then condensed under reduced pressure to obtain a crude product. The crude product was then purified by means of silica gel column chromatography (eluate; hexane:ethyl acetate=9:1 (v/v)) to obtain the target compound in an amount of 0.2 g.

reactant | 1-(4,6-dimethyl-2-pyridinyl)ethanone O-[(2-hydroxy-3-methoxyphenyl)methyl]oxime | 0.67 mmol, 0.2 g | OC1=C(C=CC=C1OC)CON=C(C)C1=NC(=CC(=C1)C)C | C17H20N2O3
reactant | pyridine | 1.34 mmol, 0.11 g | N1=CC=CC=C1 | C5H5N
reactant | pivalic chloride | 1.00 mmol, 0.12 g | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-(N,N-dimethylamino)pyridine | 5 mg | CN(C)C1=CC=NC=C1 | C7H10N2
product | 1-(4,6-Dimethyl-2-pyridinyl)ethanone O-[(2-Pivaloyloxy-3-methoxyphenyl)methyl] Oxime | C(C(C)(C)C)(=O)OC1=C(C=CC=C1OC)CON=C(C)C1=NC(=CC(=C1)C)C | C22H28N2O4
